US07989457B2
Step B. 3-(3-Fluoro-4-hydroxy-benzoylamino)-propionic acid ethyl ester
Combine 3-Fluoro-4-hydroxy-benzoic acid (1.0 g, 6.4 mmol), PyBOP (4.0 g, 7.69 mmol), 3-amino-propionic acid ethyl ester hydrochloride (1.47 g, 9.6 mmol) and ethyl-diisopropyl-amine (4.55 mL, 25.6 mmol) in N,N-dimethyl-formamide (20 mL). Stir for sixty-six hours at room temperature. Dilute reaction with ethyl acetate and water. Wash organic layer with saturated solution of ammonium chloride and water. Extract combined aqueous fraction with ethyl acetate. Wash combined organic fractions with saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter and concentrate under reduced pressure. Purify on silica gel chromatography (20-80% Ethyl acetate/hexanes gradient) to provide 1.24 g of title compound (76%).

reactant | 3-Fluoro-4-hydroxy-benzoic acid | 6.4 mmol, 1.0 g | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | PyBOP | 7.69 mmol, 4.0 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-amino-propionic acid ethyl ester hydrochloride | 9.6 mmol, 1.47 g | Cl.C(C)OC(CCN)=O
reactant | ethyl-diisopropyl-amine | 25.6 mmol, 4.55 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethyl-formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoro-4-hydroxy-benzoylamino)-propionic acid ethyl ester | 1.24 g, 76% | C(C)OC(CCNC(C1=CC(=C(C=C1)O)F)=O)=O | C12H14FNO4
